US07585886B2
A 4 ml 2,2-dimethylpropanol/1 ml water mixed solution of 286 mg of tert-butyl ({(3R,4S)-1-[4-(4-formylphenoxy)benzoyl]-4-phenylpyrrolidin-3-yl}methyl)[(1R)-1-(1-naphthyl)ethyl]carbamate was mixed with 892 mg of potassium dihydrogenphosphate, 1 ml of 2-methyl-2-butene and 394 mg of sodium chlorite and stirred at room temperature for 3 hours. By carrying out its work-up and purification in the standard method, 293 mg of 4-(4-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}phenoxy)benzoic acid was obtained as a pale yellow oily substance. EP: 671. (3) By carrying out the Boc-elimination reaction in the same manner as in Example 5,4-(4-{[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}phenoxy)benzoic acid hydrochloride was produced from 4-(4-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}phenoxy)benzoic acid.

reactant | 2,2-dimethylpropanol | 4 ml | CC(CO)(C)C | C5H12O
reactant | tert-butyl ({(3R,4S)-1-[4-(4-formylphenoxy)benzoyl]-4-phenylpyrrolidin-3-yl}methyl)[(1R)-1-(1-naphthyl)ethyl]carbamate | 286 mg | C(=O)C1=CC=C(OC2=CC=C(C(=O)N3C[C@@H]([C@H](C3)C3=CC=CC=C3)CN(C(OC(C)(C)C)=O)[C@H](C)C3=CC=CC4=CC=CC=C34)C=C2)C=C1 | C42H42N2O5
reactant | potassium dihydrogenphosphate | 892 mg | P(=O)(O)(O)[O-].[K+]
reactant | 2-methyl-2-butene | 1 ml | CC(C)=CC | C5H10
reactant | sodium chlorite | 394 mg | Cl(=O)[O-].[Na+]
product | 4-(4-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}phenoxy)benzoic acid | 293 mg | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)C1=CC=C(OC2=CC=C(C(=O)O)C=C2)C=C1 | C42H42N2O6
